US07935696B2
5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-3-carboxamide
Compound a was prepared by coupling commercially available 5-bromothiophene-3-carboxylic acid with 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride (prepared as described in WO 04/071440) using the method described in Example 128 to afford a tan solid. HPLC Ret time=3.02 min. LCMS [M+H]+ 379.0.

reactant | 5-bromothiophene-3-carboxylic acid | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride | Cl.NC=1C=C(C(=O)NC2CC2)C=CC1C
product | 5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-3-carboxamide | BrC1=CC(=CS1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C16H15BrN2O2S
